Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: NEUROLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
lightheadedness, slowed speech,
somnolence now resolving

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HPI: The patient is a ___ year old lady with history of 
depression
and ADHD, migraines who presents with ___ hour episode of slowed
speech, fatigue, possible disorientation.

She has been under a lot of stress recently as she is starting a
new job as an ___, ___ and has a daughter with a medical
issue in ___. She is on the Board here at ___. However, she
has been feeling well although with some anxiety and sleeping 
ok.

This morning she woke up and didn't have time to eat and had to
get to work. When she got into her car around 9A she felt
lightheaded (not dizzy) and somewhat fatigued all over and 
tired.
She had no changes in her vision. She called her husband and was
talking to him on the phone while driving into work. He felt 
like
her speech was very slow but fluent and she did not seem
confused. Given how slowed her speech sounded he encouraged her
to pull over. She did not pull over initially and felt like she
was unclear about which lanes to be in. She then accidentally
bumped into someone and ultimately pulled off the round. A UPS
driver pulled over to help her and spoke with her husband. Her
husband sand the UPS driver said she had been swerving and 
seemed
to be talking slow. The patient herself admits that all of the
was very hazy and she doesn't have much memory for this. She
denies weakness, tingling, numbness, frank dizziness. She was
able to walk but perhaps felt a bit off balance. 

She went to ___ where she was told her BG
was borderline. She had BP 150/77. She had CTH which was normal
and she was ultimately transferred to ___. She says she 
doesn't
really remember being at ___ but remembers
the ambulance ride here which is when she essentially returned 
to
her baseline. Her husband thinks she is almost 100% now in terms
of speech but perhaps seems a bit tired. 

She denies recent etoh, ingestion, new medications. She has no
history of seizure, stroke or blood clot. She did have a
concussion a few years ago. She had left leg weakness in her ___
and was worked up for MS. ___ says she had an LP that showed 
high
white blood cells and thought she had an infection. About ___ 
years
ago she got tingling in her left leg again and reportedly had an
MRI which showed no lesions so she was told she did not have MS.
___ does have a history of migraines about 2 times a year with
season change. She gets bitemporal throbbing, pressure and
photophobia. She takes medicine and goes in a dark room and it
goes away. She has never had complex features with these. 
 

ROS: no fevers, chills, sob, chest pain, diarrhea, dysuria,
abdominal pain. 

 
Past Medical History:
CERVICAL DYSPLASIA                                              
CHOLECYSTECTOMY                                                 
APPENDECTOMY                                                    
C-SECTION                                                       
CERVICAL CONE BIOPSY                                            
ADD                                                             
CYSTS AND CALCIFICATIONS IN BREASTS                             
VENTRAL HERNIA                                                  
ENDOMETRIAL BIOPSY                                              
RIGHT SMALL FINGER DUPUYTREN CONTRACTURE                        
ARTHRITIS HAND SURGERY ___                                     
RECURRENT HERPETIC LESION ON THE CHEST                          
?Prior w/u for MS given left leg weakness in her ___. She was
told there was an infection in her spine
Had a concussion a few years ago

 
Social History:
___
Family History:
Family History  (Last Verified ___ by ___:
Relative Status   Age Problem              Onset Comments       
Mother   Living   ___  BREAST CANCER              had XRT and    
                                                 tamoxifen      
                      CERVICAL CANCER                           

Father   ___ ___  LUNG CANCER                non smoker     

Brother  Living   ___                                            

Comments: 1 brother, high cholesterol, ? controlled with diet & 
          exercise. son ___, daughter ___, a/h                

 
Physical Exam:
Physical Exam on Admission:
PHYSICAL EXAMINATION
Vitals:Temp Pulse RR BP Rhythm O2 sat O2 flow Pain
98.6 57 18 169/91
MAP: 117.0
100

General: Awake, cooperative, pleasant - at one point seems a bit
more tired on exam
HEENT: NC/AT, no scleral icterus noted
Neck: Supple
Pulmonary: breathing comfortably on RA
Cardiac: wwp
Abdomen: soft, NT/ND 
Extremities: No ___ edema 
Skin: a few bruises on her legs bl

Neurologic:

-Mental Status: Alert, oriented x ___ … ___. Able to relate most of history linearly. She does
have only vague recollection of event earlier today and being at
Urgent Care. Otherwise, able to talk about recent change of job,
daughter being in ___. She can do months of year backward
quite fast. Calculations intact. Naming high and low intact.
Recall ___ at 5 minutes. She was reminded of objects and then 
again was ___ at 3 more minutes. She could not get any of the
objects with category clues. She follows complex commands, there
is no apraxia or neglect. 

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation. Fundoscopic
exam revealed no papilledema, exudates, or hemorrhages.
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc 
 L  5    ___   ___  5   5    5  5     5     
 R  5    ___   ___  5   5    5  5     5     

-Sensory: No deficits to light touch. Decreased pin prick on 
left
arm and leg (spares trunk and back)- 90% decreased relative. No
deficits to temp, prop or vibration. 

-DTRs:
   Bi ___ Pat Ach
 L  2   2    3   2
 R  2   2    3   2
 Plantar response was flexor bilaterally. No clonus.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. ___
absent.

Physical Exam at Discharge:
24 HR Data (last updated ___ @ 440)
    Temp: 98.1 (Tm 98.3), BP: 102/66 (102-157/66-93), HR: 44
(44-60), RR: 18 (___), O2 sat: 99% (97-99), O2 delivery: RA  
General: Awake, cooperative, pleasant - on EEG.
HEENT: NC/AT, no scleral icterus noted
Neck: Supple
Pulmonary: breathing comfortably on RA
Cardiac: wwp
Abdomen: soft, NT/ND 
Extremities: No ___ edema 
Skin: a few bruises on her legs bl

Neurologic:

-Mental Status: Alert, oriented  ___ … ___. Able to relate most of history linearly. using
profanities, expressing frustration,  recalls consistent story 
as
yesterday. 
 a few word recall issues  

-Cranial Nerves:
 II, III, IV, VI:  PERRL 3 to 2mm and 4--> 3 L/R  and brisk. 
EOMI
without nystagmus. Normal saccades. VFF to confrontation.
Fundoscopic exam revealed no papilledema, exudates, or
hemorrhages.
 V: Facial sensation intact to light touch.
 VII: No facial droop, facial musculature symmetric.
 VIII: Hearing intact to finger-rub bilaterally.
 IX, X: Palate elevates symmetrically.
 XI: ___ strength in trapezii and SCM bilaterally.
 XII: Tongue protrudes in midline.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. No adventitious movements, such as tremor, noted. 
No
asterixis noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA Gastroc 
 L  5    ___   ___  5   5    5  5     5     
 R  5    ___   ___  5   5    5  5     5     

-Sensory: No deficits to light touch.  

-DTRs:
   Bi ___ Pat Ach
 L  2   2    3   2
 R  2   2    3   2
 Plantar response mute bilaterally. No clonus.

-Coordination: No intention tremor, no dysdiadochokinesia noted.
No dysmetria on FNF or HKS bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty. Romberg
absent.

 
Pertinent Results:
___ 06:35AM BLOOD WBC-6.7 RBC-4.03 Hgb-11.5 Hct-36.5 MCV-91 
MCH-28.5 MCHC-31.5* RDW-13.8 RDWSD-45.8 Plt ___
___ 02:50PM BLOOD Neuts-54.2 ___ Monos-5.5 Eos-0.6* 
Baso-0.5 Im ___ AbsNeut-3.35 AbsLymp-2.41 AbsMono-0.34 
AbsEos-0.04 AbsBaso-0.03
___ 06:35AM BLOOD ___ PTT-33.1 ___
___ 06:35AM BLOOD Glucose-103* UreaN-17 Creat-0.8 Na-140 
K-4.0 Cl-103 HCO3-28 AnGap-9*
___ 02:50PM BLOOD ALT-11 AST-13 AlkPhos-79 TotBili-0.6
___ 06:35AM BLOOD Calcium-9.4 Phos-4.7* Mg-1.8
___ 02:50PM BLOOD VitB12-329
___ 02:50PM BLOOD %HbA1c-5.6 eAG-114
___ 02:50PM BLOOD Triglyc-41 HDL-59 CHOL/HD-2.4 LDLcalc-77
___ 02:50PM BLOOD TSH-0.65
___ 02:50PM BLOOD ___ CRP-0.6 dsDNA-NEGATIVE
___ 02:50PM BLOOD Lyme Ab-NEG Trep Ab-NEG
___ 02:50PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 03:15PM BLOOD Glucose-80 Creat-0.7 Na-142 K-3.3* Cl-104 
calHCO3-30
___ 04:20PM URINE Blood-SM* Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-7.5 Leuks-NEG
___ 04:20PM URINE Color-Straw Appear-Clear Sp ___
___ 04:20PM URINE RBC-<1 WBC-1 Bacteri-NONE Yeast-NONE 
Epi-2
___ 04:20PM URINE bnzodzp-NEG barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG marijua-POS*

___ 4:20 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

vcEEG 

FINDINGS:  
CONTINUOUS EEG: The background activity shows a fairly well 
organized and well 
sustained, symmetric, low to moderate voltage posterior dominant 
rhythm of 
___ Hz. There is small to moderate superimposed frontally 
predominant beta 
activity. There are occasional brief bursts of low to moderate 
voltage mixed 
frequency focal slowing seen independently in the temporal 
regions 
bilaterally, left >> right. There are also occasional brief <1 
second ___ Hz 
runs of sharp transients in the left more than right temporal 
region most 
consistent with wicket spikes, a variant of uncertain 
significance. 
  
SLEEP: The patient progresses from wakefulness to N1, N2, and 
REM sleep at 
appropriate times with no additional findings. 
  
PUSHBUTTON ACTIVATIONS: There are no pushbutton activations. 
  
CARDIAC MONITOR: Shows a generally regular rhythm with an 
average rate of 
50-70 bpm. 
  
IMPRESSION: This is an abnormal continuous video-EEG monitoring 
study due to: 
1. Occasional brief bursts of focal slowing seen independently 
in the temporal 
regions bilaterally, left much more than right. This finding 
indicates 
independent focal regions of subcortical dysfunction that is 
nonspecific in 
etiology. 
  
There are no pushbutton events. No epileptiform discharges or 
electrographic 
seizures are seen. 

FINDINGS:  
CONTINUOUS EEG: The background activity shows a fairly well 
organized and well 
sustained, symmetric, low to moderate voltage posterior dominant 
rhythm of 9 
Hz. There is small to moderate superimposed frontally 
predominant beta 
activity. There are occasional brief bursts of low to moderate 
voltage mixed 
frequency focal slowing seen in left temporal region. There are 
also 
occasional brief <1 second ___ Hz runs of sharp transients in 
the left more 
than right temporal region most consistent with wicket spikes, a 
variant of 
uncertain significance. 
  
SLEEP: The patient progresses from sleep to wakefulness at 
appropriate times 
with no additional findings. 
  
PUSHBUTTON ACTIVATIONS: There are no pushbutton activations. 
  
CARDIAC MONITOR: Shows a generally regular rhythm with an 
average rate of 
50-80 bpm. 
  
IMPRESSION: This is an abnormal continuous video-EEG monitoring 
study due to: 
1. Occasional brief bursts of focal slowing seen in the left 
temporal region. 
This finding indicates a focal region of subcortical dysfunction 
that is 
nonspecific in etiology. 
  
There are no pushbutton events. No epileptiform discharges or 
electrographic 
seizures are seen. Compared to the prior day's study, there is 
no significant 
change. 

EXAMINATION:  MR HEAD W AND W/O CONTRAST T___ MR HEAD 
  
INDICATION:  ___ year old woman with transient episode of 
disorientation, very 
slow speech and somnolence all resolving// Eval mass, acute 
process 
  
TECHNIQUE:  Sagittal and axial T1 weighted imaging were 
performed. After 
administration of intravenous contrast, axial imaging was 
performed with 
gradient echo, FLAIR, diffusion, and T1 technique. Sagittal 
MPRAGE imaging was 
performed and re-formatted in axial and coronal orientations. 
  
COMPARISON:  None. 
  
FINDINGS:  
  
There is no evidence of hemorrhage, edema, masses, mass effect, 
midline shift 
or infarction.   The ventricles and sulci are normal in caliber 
and 
configuration for patient's age.  There is no abnormal 
enhancement after 
contrast administration.  Incidental findings of capillary 
telangiectasia in 
right paramidline at the pons. 
  
The major intracranial flow voids are preserved.  The dural 
venous sinuses are 
patent. 
  
Mucosal retention cyst seen within the left maxillary sinus. 
Otherwise, the 
paranasal sinuses and mastoid air cells are essentially clear.  
Both orbits 
and globes are unremarkable. 
  
IMPRESSION: 
  
  
1. No acute intracranial abnormality on contrast enhanced MRI.  
There is no 
acute infarct. 
2. There is no mass lesion mass-effect or abnormal intracranial 
enhancement. 
3. Additional findings described above. 

CT HEAD WITHOUT CONTRAST: 
There is no evidence of infarction,hemorrhage,edema,ormass.  The 
ventricles 
and sulci are within expected limits in size and configuration. 
  
There is a mucous retention cyst in the left maxillary sinus.  
The visualized 
portion of the paranasal sinuses, mastoid air cells,and middle 
ear cavities 
are otherwise clear.  The visualized portion of the orbits are 
unremarkable. 
  
CTA HEAD: 
The vessels of the circle of ___ and their principal 
intracranial branches 
appear normal without stenosis, occlusion, or aneurysm formation 
greater than 
3mm.  There are small bilaterally patent posterior communicating 
arteries.  
There is a patent anterior communicating artery complex, and the 
left anterior 
cerebral artery A1 segment has a fenestration, anatomic variant. 
 The dural 
venous sinuses are patent. 
  
CTA NECK: 
Bilateral carotid and vertebral artery origins are patent. 
There is no evidence of internal carotid stenosis by NASCET 
criteria. 
The carotidandvertebral arteries and their major branches appear 
normal with 
no evidence of stenosis or occlusion. 
  
  
  
OTHER: 
The visualized portion of the lungs are clear.  The visualized 
portion of the 
thyroid gland is within normal limits. There is no 
lymphadenopathy by CT size 
criteria.  Degenerative changes of the cervical spine are noted, 
most advanced 
at the C6-C7 level. 
  
IMPRESSION: 
  
  
1. No acute intracranial abnormality on noncontrast CT head. 
2. Patent circle of ___ without evidence of 
stenosis,occlusion,or aneurysm. 
3. Patent bilateral cervical carotid and vertebral arteries 
without evidence 
of stenosis, occlusion, or dissection. 

 
Brief Hospital Course:
___ year old woman with past medical history significant for 
ADHD, depression, prior concussions, and remote prior suspected 
transverse myelitis (by history), who presented to the ___ 
emergency department after a transient episode of 
disorientation, very slow speech, low impact car crash, and 
somnolence all of which have resolved. 

MRI Head with and without contrast was unrevealing. cvEEG was 
notable for brief bursts of focal slowing in the left greater 
than right temporal regions. Telemetry monitoring was 
unremarkable. Metabolic work-up was normal. No signs of anemia 
or infection on complete blood count with differential. 
Rheumatological screening work-up was negative. Chest X-ray was 
negative. 

Transient episode of amnesia, speech disturbance, and confusion 
following prodromal depersonalization sensation was suggestive 
of a possible temporal lobe seizure without clear risk factors 
on imaging or EEG, although the duration of the episode and the 
largely preserved level of awareness would be somewhat atypical. 
Consideration also given to an atypical presentation of 
transient global amnesia, though the apparent speech disturbance 
and vehicle collision would again represent atypical features. 
As this episode would have represented a first-time seizure with 
unrevealing imaging and EEG, treatment was deferred, though may 
be considered for future episodes.

Transitional issues:
- Outpatient neurology follow-up, consider repeat EEG
- Follow-up with primary care provider regarding elevated 
phosphorus of 4.7. Follow-up on sedimentation rate that is 
pending. Follow-up on urine culture that is pending. Urine tox 
positive for marijuana, follow-up on counseling regarding 
prolonged use.
- Primary care providers to assist in providing a psychologist 
for patient to speak with in the setting of her acute stress.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Concerta (methylphenidate HCl) 54 mg oral DAILY:PRN 
2. MethylPHENIDATE (Ritalin) 10 mg PO DAILY 
3. Citalopram 20 mg PO DAILY 
4. Vitamin D 1000 UNIT PO DAILY 
5. Calcium Magnesium (Ca carb-Ca gluc-Mg ox-Mg gluco) 500 mg 
calcium -250 mg oral TID 

 
Discharge Medications:
1.  Calcium Magnesium (Ca carb-Ca gluc-Mg ox-Mg gluco) 500 mg 
calcium -250 mg oral TID  
2.  Citalopram 20 mg PO DAILY  
3.  Concerta (methylphenidate HCl) 54 mg oral DAILY:PRN  
4.  MethylPHENIDATE (Ritalin) 10 mg PO DAILY  
5.  Vitamin D 1000 UNIT PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Suspected partial seizure with impaired awareness vs. atypical 
transient global amnesia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

You came to the ___ emergency department after a transient 
episode of disorientation, very slow speech, low impact car 
crash, and somnolence all of which have resolved. Your first 
time transient episode at time of discharge may have represented 
a seizure with subsequent post-ictal process or transient global 
amnesia. 

You had an EEG study that did not show signs of seizures and an 
MRI which was normal.

You are being discharged without any medication changes.  

Please follow up with our neurology team in ___ll minor events in a diary, or please consider going to the ED 
in you have another prolonged episode as this may change our 
diagnosis and treatment considerations.  

Please read the following adopted for you from UPTODATE:

What are seizures?
Seizures are waves of abnormal electrical activity in the brain. 
Seizures can make you pass out, or move or behave strangely. 
Most seizures last only a few seconds or minutes.

Epilepsy is a condition that causes people to have repeated 
seizures. But not everyone who has had a seizure has epilepsy. 
Problems such as low blood sugar or infection can also cause 
seizures. Other problems such as anxiety or fainting spells can 
cause events that look like seizures.

What are the symptoms of a seizure?
There are different kinds of seizures. Each causes a different 
set of symptoms.
People who have "tonic clonic" or "grand mal" seizures often get 
stiff and then have jerking movements. People who have other 
types of seizures have less dramatic changes. For instance, some 
people have shaking movements in just 1 arm or in a part of 
their face. Other people suddenly stop responding and stare for 
a few seconds.  Others have changes in behavior that represent a 
seizure.  

Should I see a doctor or nurse if ___ have a seizure?
If you have never had a seizure before and you have one, you (or 
whoever is with you) should call for an ambulance (in the US and 
___, dial ___. Having a seizure can be a sign that 
something is wrong with your brain.

How are seizures treated?
The right treatment for seizures depends on what is causing 
them. If you have seizures because of an infection, you will 
probably need treatments to get rid of the infection. On the 
other hand, if you have repeated seizures because of epilepsy, 
you will probably need anti-seizure medicines, also called 
"anti-convulsants."

Until you have your seizures under control, DO NOT DRIVE.  
___ law prohibits driving after any event where 
one looses consciousness for more for 6 months, and requires 
absence of subsequent event, with recommended doctor's 
clearance.

Also, if your seizures are not under control make sure to take 
other safety steps. For example, do not swim without someone 
else nearby who could help you if you started having a seizure. 
And avoid activities that could result in you falling from a 
height.

How can I reduce my chances of having more seizures?
You can:

Avoid alcohol. Alcohol can increase the risk of seizures.

Avoid drugs, as they can also increase risk of seizures.

Avoid sleep deprivation.  

What should my family members do if they see me having a 
seizure?
Ask your doctor what your family members should do. Some people 
will have seizures from time to time, and they might not need to 
see a doctor every time. But if you have a seizure that lasts 
longer than 5 minutes or if you do not wake up after a seizure, 
your family members should call for an ambulance (in the US and 
___, dial ___.

Your family members should not try to put anything in your mouth 
while you are having a seizure. But they should make sure you do 
not bang against any hard surfaces.

We recommend also following up with a psychologist, to help you 
with your stressful transitions at this time.

Please follow-up with your primary care provider to review this 
recent event.

Thank you for the opportunity to care for you,

The ___ Neurology Team
 
Followup Instructions:
___